US04082793
A solution of 30 grams (0.1 mole) of 4-bromophenyl phenyl sulfone in 500 ml. of tetrahydrofuran was cooled to -100° C. in a liquid nitrogen-toluene slush, and 42 ml. (0.1 mole) of 2.38 M n-butyl lithium in hexane was added, forming 4-phenylsulfonyl-phenyl lithium. After about 10 minutes, 9.5 grams (0.05 mole) of diethyl dichlorophosphoramide was added, and the reaction mixture was allowed to warm slowly to room temperature, and then to stand a room temperature for 18 hours, forming diethyl bis [4-(phenylsulfonyl)phenyl] phosphoramide. Next, 125 ml. of 6 M HCl was added, and the reaction mixture was heated under reflux for 4 hours to hydrolyze the phosphoramide group. The tetrahydrofuran was removed by distillation, and 7.5 grams of almost white solid, M.P. 115°-130° C., was collected by filtration. This solid was recrystallized from tetrahydrofuran to give 7 grams (28% yield) of the bis[4-(phenylsulfonyl)phenyl] phosphinic acid product, m.p. 155°-165° C.

reactant | 4-bromophenyl phenyl sulfone | 0.1 mole, 30 grams | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)Br | C12H9BrO2S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | nitrogen toluene | N#N.C1(=CC=CC=C1)C
reactant | n-butyl lithium | 0.1 mole, 2.38 M | C(CCC)[Li]
solvent | hexane | CCCCCC | C6H14
product | 4-phenylsulfonyl-phenyl lithium | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)[Li] | InChI=1S/C12H9O2S.Li/c13-15(14,11-7-3-1-4-8-11)12-9-5-2-6-10-12;/h1,3-10H;
